6
R2 1 0 1
R2 2 0 1
R1 3 4 1
R1 5 6 1
L1 3 0 1
L2 1 0 1
L11 5 0 1
L21 2 0 1
VIN 4 0 1 0
VIN 6 0 1 90
K121 L11 L21 0.99
K12 L1 L2 0.9
.AC LOG 100 0.001 100
